US06552192B1
2-(3-hydroxypropylamino)-6-benzylamino-8-bromo-9-isopropypurine.
1 mmol of 2-(3-hydroxypropylamino)-6-benzylamino-9-isopropylpurine was dissolved in chloroform and 1.1 mmol of bromine was added. The 8-bromo derivative hydrobromide was removed by filtration and crystallized from n-propanol-ether. M.p. 156-161° C. Yield 90%. TLC: chloroform-methanol (96:4), single spot. MS-ESI(+)m/z: 420, 422 [M+H]+

reactant | 2-(3-hydroxypropylamino)-6-benzylamino-9-isopropylpurine | 1 mmol | OCCCNC1=NC(=C2N=CN(C2=N1)C(C)C)NCC1=CC=CC=C1 | C18H24N6O
reactant | bromine | 1.1 mmol | BrBr | Br2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-(3-hydroxypropylamino)-6-benzylamino-8-bromo-9-isopropypurine | Yield 90% | OCCCNC1=NC(=C2N=C(N(C2=N1)C(C)C)Br)NCC1=CC=CC=C1 | C18H23BrN6O
